US05756528
Step A: 2-Methylbenzylglycine methyl ester hydrochloride
To a solution of 2-methylbenzyl alcohol (100 g, 0.82 mol) and diisopropylethylamine (171 mL, 0.98 mol) in CH2Cl2 (400 mL) at -5° C. was added dropwise methanesulfonyl chloride (74 mL, 0.95 mmol) with stirring under argon. After 1 hr at -5° and 3 hr at 20° C., this solution was added dropwise simultaneously with diisopropylethylamine (428 mL, 2.46 mol) to a slurry of glycine methyl ester hydrochloride (308.8 g, 2.45 mol) in DMF (400 mL) at 0° C. The reaction mixture was allowed to warm to ambient temperature for overnight, then treated slowly with satd NaHCO3 solution (1 L) and EtOAc (1 L). The layers were separated, the aqueous washed with EtOAc, and the organics combined, washed with satd NaHCO3 solution, brine, and dried (MgSO4). This solution was filtered, cooled to 0° C., and HCl was bubbled into the solution to precipitate the title compound. 1H NMR (CDCl3) δ 7.61 (d, 1H, J=7 Hz), 7.7-7.8 (m, 3H), 4.31 (s, 2H), 3.77 (s, 3H), 3.65 (s, 2H), 2.46 (s, 3H).

reactant | 2-methylbenzyl alcohol | 0.82 mol, 100 g | CC1=C(CO)C=CC=C1 | C8H10O
reactant | diisopropylethylamine | 0.98 mol, 171 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.95 mmol, 74 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 2.46 mol, 428 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | glycine methyl ester hydrochloride | 2.45 mol, 308.8 g | Cl.COC(CN)=O
reactant | NaHCO3 | 1 L | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 1 L | CCOC(=O)C | C4H8O2
product | 2-Methylbenzylglycine methyl ester hydrochloride | Cl.COC(CNCC1=C(C=CC=C1)C)=O | InChI=1S/C11H15NO2.ClH/c1-9-5-3-4-6-10(9)7-12-8-11(13)14-2;/h3-6,12H,7-8H2,1-2H3;1H
